US09431145B2
1-(4-iodophenyl)cyclohexanecarbonitrile
N-Methylpyrrolidinone (NMP) (197 mL, Sigma-Aldrich) was added to a suspension of sodium tert-butoxide (124.0 g, Alfa-Aesar) in tetrahydrofuran (THF) (197 mL, Univar) under argon. The mixture was cooled to 0° C. and a solution of 1,5-dibromopentane (87.9 mL, Sigma-Aldrich) and 4-iodophenylacetonitrile (78.4 g) in a 50:50 mixture of NMP/THF (173 mL) was added dropwise keeping the internal temperature below 10° C. The mixture was warmed to room temperature and stirred overnight. 2M hydrochloric acid (930 mL) and toluene (930 mL) were added then the aqueous layer was separated and extracted with toluene (2×465 mL). The combined organics were washed with saturated sodium bicarbonate (930 mL), brine (930 mL), 2M sodium thiosulfate (930 mL), dried (magnesium sulphate) and concentrated in vacuo to a yellow/orange solid. Dichloromethane was added and the solid was filtered and washed with dichloromethane to give the product as a white solid. Yield: 22.55 g. 1H NMR (400 MHz, CDCl3): δ 7.70-7.72 (2H, m, ArH), 7.22-7.25 (2H, m, ArH), 2.10-2.13 (2H, m, —CH2—), 1.67-1.89 (7H, m, —CH—), 1.22-1.32 (1H, m, —CH—).

reactant | sodium tert-butoxide | 124.0 g | CC(C)([O-])C.[Na+]
reactant | 1,5-dibromopentane | 87.9 mL | BrCCCCCBr | C5H10Br2
reactant | 4-iodophenylacetonitrile | 78.4 g | IC1=CC=C(C=C1)CC#N | C8H6IN
reactant | hydrochloric acid | 2M, 930 mL | Cl | ClH
solvent | tetrahydrofuran | 197 mL | O1CCCC1 | C4H8O
solvent | toluene | 930 mL | C1(=CC=CC=C1)C | C7H8
solvent | NMP THF | 173 mL | CN1C(CCC1)=O.O1CCCC1
solvent | N-Methylpyrrolidinone | 197 mL | CN1C(CCC1)=O | C5H9NO
product | 1-(4-iodophenyl)cyclohexanecarbonitrile | IC1=CC=C(C=C1)C1(CCCCC1)C#N | C13H14IN
